US07700641B2
Synthesis of 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione
To a solution of [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid (0.28 g, 0.73 mmol) was added one drop of DMF and oxalyl chloride (0.32 mL, 3.7 mmol) in toluene (10 mL). The mixture was stirred at ambient temperature overnight and concentrated under vacuum to dryness to afford a brown oil. This substance was dissovled in dichloromethane (15.0 mL) followed by the addition of tin (IV) chloride (0.07 mL, 0.57 mmol) at 0° C. The mixture was stirred at ambient temperature overnight and quenched with ice water. The mixture was poured into water (100 mL), and the mixture was extracted with dichloromethane (150 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to flash column chromatography to afford the title compound (0.09 g, 67%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.31 (td, 1H), 7.14 (s, 1H), 7.02 (td, 1H), 6.97-6.92 (m, 2H), 6.22 (s, 1H), 6.03-5.98 (m, 2H), 3.87-3.63 (m, 2H), 3.17 (d, 1H), 2.85 (d, 1H), 1.79-1.66 (m, 2H), 1.41-1.30 (m, 4H), 0.88 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 201.4, 177.5, 154.8, 151.8, 149.6, 143.1, 132.5, 131.6, 128.9, 123.4, 123.2, 108.9, 103.5, 102.6, 102.5, 53.8, 47.7, 40.5, 29.0, 27.1, 22.3, 14.0; MS (ES+), m/z 386.1 (M+23), 364.1 (M+1).

reactant | [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid | 0.73 mmol, 0.28 g | O1COC2=C1C=CC(=C2)C2(C(N(C1=CC=CC=C21)CCCCC)=O)CC(=O)O | C22H23NO5
reactant | oxalyl chloride | 3.7 mmol, 0.32 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 0.57 mmol, 0.07 mL | [Sn](Cl)(Cl)(Cl)Cl
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
product | 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione | 0.09 g, 67% | C(CCCC)N1C(C2(C3=CC=CC=C13)CC(C1=CC=3OCOC3C=C12)=O)=O | C22H21NO4
